US08304578B2
1-[2-(Dimethylamino)-1-(4-benzyloxyphenyl)ethyl]cyclohexanol (30 g) was dissolved in methanol (600 ml), charged with 10% palladium on carbon (3 g) and hydrogenated pressure for 6 h at room temperature. The catalyst was filtered, washed with methanol, and combined filtrate evaporated under reduced pressure to give 18 g (81.08%) of the 1-[2-(dimethylamino)-1-(4-hydroxyphenyl)ethyl]cyclohexanol.

reactant | 1-[2-(Dimethylamino)-1-(4-benzyloxyphenyl)ethyl]cyclohexanol | 30 g | CN(CC(C1=CC=C(C=C1)OCC1=CC=CC=C1)C1(CCCCC1)O)C | C23H31NO2
solvent | methanol | 600 ml | CO | CH4O
catalyst | palladium on carbon | 3 g | [Pd] | Pd
product | 1-[2-(dimethylamino)-1-(4-hydroxyphenyl)ethyl]cyclohexanol | 18 g, 81.08% | CN(CC(C1=CC=C(C=C1)O)C1(CCCCC1)O)C | C16H25NO2
